US06605635B1
To a stirred solution of lithium aluminum hydride (2.7 g) in tetrahydrofuran (25 ml) was added dropwise a solution of 2,6-bis(1-pyrrolidinomethyl)-4-acetamidophenol (5.6 g) in tetrahydrofuran (5 ml). The mixture was heated to reflux for 5 hours and was added dropwise water and aqueous 20% NaOH solution with cooling in an ice bath then was filtered by suction. The filtered cake was washed with tetrahydrofuran. The combined filtrate and washings were evaporated under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (CH3COOEt:CH3OH: H4OH=5:1:0.1) to give 2,6-bis(1-pyrrolidinomethyl)-4-ethylaminophenol (3.9 g).

reactant | lithium aluminum hydride | 2.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,6-bis(1-pyrrolidinomethyl)-4-acetamidophenol | 5.6 g | N1(CCCC1)CC1=C(C(=CC(=C1)NC(C)=O)CN1CCCC1)O | C18H27N3O2
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,6-bis(1-pyrrolidinomethyl)-4-ethylaminophenol | 3.9 g | N1(CCCC1)CC1=C(C(=CC(=C1)NCC)CN1CCCC1)O | C18H29N3O
